US07595327B2
To a solution of methyl (1R,2R)-2-amino-1-hydroxycyclopentanecarboxylate (2.1 mmol) in CH2Cl2 (8 mL) and saturated sodium bicarbonate (8 mL) was added 4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonyl chloride hydrochloride (0.88 g, 1.1 eq). The reaction was allowed to stir for 18 h at room temperature, and then taken up in ethyl acetate, washed with brine, dried over MgSO4, filtered and concentrated. The residue was purified using ilica chromatography eluting with a gradient of 50% -70% ethyl acetate/hexanes afforded methyl (1R,2R)-1-hydroxy-2-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclopentanecarboxylate (0.2 g, 20%). MS: 470.1 (M+H)+

reactant | methyl (1R,2R)-2-amino-1-hydroxycyclopentanecarboxylate | 2.1 mmol | N[C@H]1[C@](CCC1)(C(=O)OC)O | C7H13NO3
reactant | 4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonyl chloride hydrochloride | 0.88 g, 1.1 eq | Cl.CC1=NC2=CC=CC=C2C(=C1)COC1=CC=C(C=C1)S(=O)(=O)Cl
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
solvent | sodium bicarbonate | 8 mL | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl (1R,2R)-1-hydroxy-2-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclopentanecarboxylate | 0.2 g, 20% | O[C@]1([C@@H](CCC1)NS(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C)C(=O)OC | C24H26N2O6S
